US05939451
0.50 g (0.00153 mol) of 4-amino-N-(2-dimethylamino-6-chloro-pyrimidin-4-yl)-benzenesulfonamide were dissolved in 20 ml (0.176 mol) of 8M methylamine in ethanol and stirred in an autoclave at 130° C. for 4 hours. The reaction mixture was freed from solvent and the residue was chromatographed on silica gel with methanol/dichloromethane 1:1 9. There was obtained 0.10 g (21 %) of 4-amino-N-(2-dimethylamino-6-methylamino-pyrimidin-4-yl)-benzenesulfonamide as beige crystals; m.p: 253-254° C.

reactant | 4-amino-N-(2-dimethylamino-6-chloro-pyrimidin-4-yl)-benzenesulfonamide | 0.00153 mol, 0.50 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)N(C)C | C12H14ClN5O2S
reactant | methylamine | 0.176 mol, 8M, 20 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-N-(2-dimethylamino-6-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.10 g, 21 % | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NC)N(C)C | C13H18N6O2S
